### PR TITLE
[Merged by Bors] - chore(IsGaloisGroup): refactor `IsGaloisGroup.quotient`

### PR DESCRIPTION
**Pull request by xroblot**
Refactors the quotient construction in `IsGaloisGroup` to work at the level of ring extensions rather than intermediate fields.

---

- [x] depends on: #38377

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 1]
```diff
@@ -434,6 +451,129 @@ end IsGaloisGroup
...
+  let := SMulQuotOfNormal G C N B
+  let := SMulOfNormal G C N B
+  refine ⟨fun g k x ↦  Quotient.inductionOn' g fun g ↦ ?_⟩
+  apply FaithfulSMul.algebraMap_injective B C
+  simp [algebraMap.smul, algebraMap_smul_of_normal, smul_comm]
+
+omit hB in
+theorem quotient' [hG : IsGaloisGroup G A C] [MulSemiringAction G B] [MulSemiringAction (G ⧸ N) B]
+    [SMulCommClass (G ⧸ N) A B] [SMulDistribClass G B C]
+    (h₁ : ∀ (g : G) (x : B), (g : G ⧸ N) • x = g • x)
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Is this the same as `IsScalarTower G (G / N) B`?

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 2]
```diff
@@ -434,6 +451,129 @@ end IsGaloisGroup
...
+    (h₂ : ∀ (g : G), (∀ x : B, g • x = x) → g ∈ N) :
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Mathematically, is this needed? This doesn't seem to match any of the existing assumptions in `IsGaloisGroup.quotient`?

Comment (tb65536) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Maybe what we're missing is that `IsGaloisGroup N B C` implies that every automorphism of `C/B` arises from an element of `N` (because then the faithfulness from `IsGaloisGroup G A C` should finish the job)?

Comment (tb65536) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: E.g., we would need to generalize `IsGaloisGroup.mulEquivAlgEquiv` to rings?

Comment (tb65536) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Which should be true for domains at least?

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 3]
```diff
@@ -281,20 +298,6 @@ theorem subgroup_iff [hGKL : IsGaloisGroup G K L] :
...
-  have : ∀ (n : N), n • g • (x : L) = g • x := by
-    intro n
-    rw [← smul_assoc, MulAction.subgroup_smul_def, smul_eq_mul,
-      show n * g = g * (g⁻¹ * n * g) by group, ← smul_eq_mul, smul_assoc,
-      IsGaloisGroup.smul_eq_self G K L N F (g⁻¹ * (n : G) * g)]
-    exact hN.conj_mem' n n.prop g
-  obtain ⟨y, hy⟩ := hF.isInvariant.isInvariant (g • x) this
-  simp [← hy]
 
 @[simp]
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:318]: There is now a double empty line here (I think).

Comment (riccardobrasca) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:318]: There is now a double empty line here.

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 4]
```diff
@@ -67,7 +67,24 @@ theorem IsGaloisGroup.of_mulEquiv [hG : IsGaloisGroup G A B] {H : Type*} [Group
 
 attribute [instance low] IsGaloisGroup.commutes IsGaloisGroup.isInvariant
 
-variable [FaithfulSMul A B] [hA : IsGaloisGroup G A B]
+theorem IsGaloisGroup.smul_eq_self (H : Subgroup G) (C : Type*) [CommSemiring C] [Algebra C B]
+    [IsGaloisGroup H C B] (g : G) (hg : g ∈ H) (x : C) :
+    g • algebraMap C B x = algebraMap C B x :=
+  smul_algebraMap (⟨g, hg⟩ : H) x
+
+theorem smul_mem_of_normal (C : Type*) [CommSemiring C] [Algebra C B] (N : Subgroup G)
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: We are missing a namespace here.

File: Mathlib/Algebra/Algebra/Basic.lean [hunk 5]
```diff
@@ -360,6 +360,32 @@ lemma algebraMap_eq_one_iff {r : R} : algebraMap R A r = 1 ↔ r = 1 :=
 
 end FaithfulSMul
 
+/-- If `R` embeds faithfully into `A` and `G` satisfies `SMulDistribClass G R A`, then
+the `SMul` of `G` on `R` extends to a `MulSemiringAction`. -/
+@[implicit_reducible]
+noncomputable def mulSemiringAction_of_smulDistribClass (G : Type*) [Group G]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Algebra/Basic.lean]:
```suggestion
noncomputable def mulSemiringAction_of_smulDistribClass (G : Type*) [Monoid G]
```
Or maybe even something crazier.

**Comment by riccardobrasca** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/dd63e0a554c94c3e68440ff6ff9a0b0ab1bb43ef?reference=043e9e04135db0b68a30660692afa6849a93a243) for dd63e0a554c94c3e68440ff6ff9a0b0ab1bb43ef against 043e9e04135db0b68a30660692afa6849a93a243 are in. No significant results found. @riccardobrasca

- 🟥 `build//instructions`: **+19.4G** (**+0.01%**)

**Small changes (1🟥)**

- 🟥 `build/module/Mathlib.FieldTheory.Galois.IsGaloisGroup//instructions`: **+15.1G** (**+20.74%**) (reduced significance based on *//lines)

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 6]
```diff
@@ -82,7 +82,24 @@ instance [IsGaloisGroup G A B] : IsGaloisGroup (⊤ : Subgroup G) A B :=
 
 attribute [instance low] IsGaloisGroup.commutes IsGaloisGroup.isInvariant
 
-variable [FaithfulSMul A B] [hA : IsGaloisGroup G A B]
+theorem IsGaloisGroup.smul_eq_self (H : Subgroup G) (C : Type*) [CommSemiring C] [Algebra C B]
+    [IsGaloisGroup H C B] (g : G) (hg : g ∈ H) (x : C) :
+    g • algebraMap C B x = algebraMap C B x :=
+  smul_algebraMap (⟨g, hg⟩ : H) x
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: This only uses `SMulCommClass H C B`

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 7]
```diff
@@ -82,7 +82,24 @@ instance [IsGaloisGroup G A B] : IsGaloisGroup (⊤ : Subgroup G) A B :=
...
+    [hN : N.Normal] [hC : IsGaloisGroup N C B] (g : G) (x : C) :
+    g • algebraMap C B x ∈ Set.range (algebraMap C B) := by
+  have : ∀ (n : N), n • g • (algebraMap C B x) = g • algebraMap C B x := by
+    intro n
+    rw [← smul_assoc, MulAction.subgroup_smul_def, smul_eq_mul,
+      show n * g = g * (g⁻¹ * n * g) by group, ← smul_eq_mul, smul_assoc,
+      IsGaloisGroup.smul_eq_self G B N C (g⁻¹ * (n : G) * g)]
+    exact hN.conj_mem' n n.prop g
+  obtain ⟨y, hy⟩ := hC.isInvariant.isInvariant (g • algebraMap C B x) this
+  simp [← hy]
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
  apply hC.isInvariant.isInvariant (g • algebraMap C B x)
  intro n
  rw [← inv_smul_eq_iff, Subgroup.smul_def, ← mul_smul, ← mul_smul]
  exact smul_eq_self G B N C _ (hN.conj_mem' n n.prop g) x
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 8]
```diff
@@ -475,65 +477,201 @@ end GaloisCorrespondence
...
+/-- The `SMul (G ⧸ N) B` structure induced by the action of `G` on `B`. This is well-defined
+since elements of `N` act trivially on `B`, as guaranteed by `IsGaloisGroup N B C`. -/
+@[implicit_reducible]
+noncomputable def smulQuotient [SMul G B] [SMulDistribClass G B C] [IsGaloisGroup N B C] :
+    SMul (G ⧸ N) B :=
+  ⟨fun g x ↦ Quotient.liftOn' g (· • x) fun g g' h ↦
+    FaithfulSMul.algebraMap_injective B C (by
+      rw [algebraMap.smul', algebraMap.smul', smul_eq_iff_eq_inv_smul,
+        ← smul_assoc, smul_eq_mul, smul_eq_self G C N]
+      rwa [← QuotientGroup.leftRel_apply])⟩
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: What about something like this which gets you straight to a `MulSemiringAction` without having to upgrade with `mulSemiringAction_of_smulDistribClass`?
```suggestion
noncomputable def smulQuotient [MulSemiringAction G B] [SMulDistribClass G B C] [IsGaloisGroup N B C]
    [N.Normal] :
    MulSemiringAction (G ⧸ N) B := by
  let f : (G ⧸ N) →* RingAut B := by
    refine QuotientGroup.lift N (MulSemiringAction.toRingAut G B) ?_
    intro n hn
    rw [MonoidHom.mem_ker, MulSemiringAction.toRingAut_apply]
    ext b
    rw [MulSemiringAction.toRingEquiv_apply, RingAut.one_apply]
    apply FaithfulSMul.algebraMap_injective B C
    rwa [Algebra.algebraMap_eq_smul_one, ← smul_one n, ← smul_distrib_smul,
      ← Algebra.algebraMap_eq_smul_one, IsGaloisGroup.smul_eq_self G C N]
  apply MulSemiringAction.compHom B f
```

Comment (tb65536) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: (sorry, I guess it should be rewritten to be in term mode rather than tactic mode, but hopefully you get the point)

Comment (xroblot) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: The problem is that it makes `coe_smul_smulQuotient` harder to use since it would then need a `MulSemiringAction`. In particular, this would break the proof of `map_quotientMk'`. There is probably a way to make this work, but I am not sure it's worth it

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean (hunk 6 above)
Comment (xroblot) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Indeed. Maybe it should change name then... Maybe `smul_algebraMap_of_subgroup`?

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean (hunk 8 above)
Comment (tb65536) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: I'm a little confused. How does the proof of `map_quotientMk'` break? I would have thought that if you already have `IsGaloisGroup N B C`, then it's not too crazy to ask for `MulSemiringAction G B`? (Mostly it would just be nice to avoid having to define raw `SMul` instances when things are always going to be `MulSemiringAction`s).

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean (hunk 6 above)
Comment (tb65536) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Or even `Subgroup.smul_algebraMap`?

Comment (tb65536) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: (`of_subgroup` isn't ideal since `Subgroup` isn't a prop).

**Comment by riccardobrasca** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/da81232b49b198def332405a8c64679e5c3a3d5c?reference=defda893c008015592dbbf4e7d7c00a58aa62745) for da81232b49b198def332405a8c64679e5c3a3d5c against defda893c008015592dbbf4e7d7c00a58aa62745 are in. There are significant results. @riccardobrasca

- 🟥 `main` exited with code **1**

No significant changes detected.

**Comment by Garmelon** [comment]
I've fixed radar and requeued the commit.
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/da81232b49b198def332405a8c64679e5c3a3d5c?reference=defda893c008015592dbbf4e7d7c00a58aa62745) for da81232b49b198def332405a8c64679e5c3a3d5c against defda893c008015592dbbf4e7d7c00a58aa62745 are in. (These commits have already been benchmarked in a previous command.) No significant results found. @Garmelon

- 🟥 `build//instructions`: **+57.6G** (**+0.03%**)

**Small changes (6🟥)**

- 🟥 `build//wall-clock`: **+6s** (**+1.07%**)
- 🟥 `build/module/Mathlib.FieldTheory.Galois.IsGaloisGroup//instructions`: **+14.3G** (**+19.31%**) (reduced significance based on *//lines)
- 🟥 `build/profile/.olean serialization//wall-clock`: **+23s** (**+2.51%**)
- 🟥 `build/profile/import//wall-clock`: **+1m 41s** (**+1.46%**)
- 🟥 `build/profile/linting//wall-clock`: **+7s** (**+2.75%**)
- 🟥 `build/profile/type checking//wall-clock`: **+49s** (**+2.64%**)

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean (hunk 8 above)
Comment (xroblot) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Done. I made a different construction for the definition so that defeqs work better.

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 9]
```diff
@@ -475,64 +474,164 @@ end GaloisCorrespondence
...
+  ⟨fun g b c ↦ by simp [Algebra.smul_def]⟩
+
+variable [FaithfulSMul B C]
+
+/-- If `N` is a normal subgroup of `G` and `IsGaloisGroup N B C`, then the quotient group `G ⧸ N`
+acts on `B` by `(g : G ⧸ N) • x = g • x`. -/
+@[implicit_reducible]
+noncomputable def mulSemiringActionQuotient [MulSemiringAction G B] [SMulDistribClass G B C]
+    [IsGaloisGroup N B C] [N.Normal] :
+    MulSemiringAction (G ⧸ N) B where
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: I'm wondering, why not just assume `[IsGaloisGroup N B C] [N.Normal]` and then derive `[MulSemiringAction G B] [SMulDistribClass G B C]` from `smulOfNormal`? For this particular def, I don't think we particularly care about it's actual implementation since it's characterized by the following `IsScalarTower G (G ⧸ N) B` instance, right?

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 10]
```diff
@@ -475,64 +474,164 @@ end GaloisCorrespondence
...
+  let := mulSemiringAction_of_smulDistribClass F L G
+  mulSemiringActionQuotient G F L N
+
+instance [SMulCommClass G K L] [MulSemiringAction G F] [SMulDistribClass G F L]
+    [IsScalarTower G (G ⧸ N) F] : SMulCommClass (G ⧸ N) K F :=
+  smulCommClassQuotient G K F L N
+
+/-- If `G` is a finite Galois group for `L/K` and `N` is a normal subgroup of `G` that is a
+Galois group for `L/F`, then the quotient group `G ⧸ N` is a Galois group for `F/K`. -/
+instance instIsGaloisGroupQuotient [Finite G] [IsGaloisGroup G K L] :
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Usually we tend not to name instances?

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 11]
```diff
@@ -475,64 +474,164 @@ end GaloisCorrespondence
...
+    apply hG.isInvariant.isInvariant (algebraMap B C x)
+    intro g
+    have := (FaithfulSMul.algebraMap_injective B C).eq_iff.mpr <| h g
+    rwa [coe_quotient_smul, algebraMap.smul'] at this
+
+end Domain
+
+noncomputable section IntermediateField
+
+variable (N : Subgroup G) [N.Normal] [IsGaloisGroup N F L]
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:598]: If you have the interest, you could also add a `Subalgebra` version of this section (I think I'll need that for some of my stuff).

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean (hunk 9 above)
Comment (xroblot) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Yes, but then wouldn't I have to add a bunch of `let`/ `have` in the statements and proofs of the following results to get the `SMul` action corresponding to the one in `mulSemiringActionQuotient`? I tried making the changes and things got quite cumbersome. It's also quite possible that I didn't fully understand what you meant.

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean (hunk 11 above)
Comment (xroblot) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:598]: I'll leave that pleasure to you ;)

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 12]
```diff
@@ -475,64 +474,170 @@ end GaloisCorrespondence
...
-variable [hK : IsGaloisGroup G K L] [Finite G]
+@[simp]
+theorem algebraMap_smulOfNormal [N.Normal] [IsGaloisGroup N B C] (g : G) (x : B) :
+    letI := smulOfNormal G B C
+    algebraMap B C (g • x) = g • algebraMap B C x :=
+  (smul_mem_of_normal G C B N g x).choose_spec
+
+/-- If `N` is normal and `IsGaloisGroup N B C`, the action `smulOfNormal G B C` satisfies
+`SMulDistribClass G B C`. -/
+theorem smulDistribClass_smulOfNormal [N.Normal] [IsGaloisGroup N B C] :
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
instance smulDistribClass_smulOfNormal [N.Normal] [IsGaloisGroup N B C] :
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 13]
```diff
@@ -475,64 +474,170 @@ end GaloisCorrespondence
...
+  smul q x := Quotient.liftOn' q (· • x) fun g₁ g₂ h ↦ by
+    apply FaithfulSMul.algebraMap_injective B C
+    rw [algebraMap.smul', algebraMap.smul', smul_eq_iff_eq_inv_smul, ← smul_assoc, smul_eq_mul,
+      Subgroup.smul_algebraMap C (by rwa [← QuotientGroup.leftRel_apply])]
+  one_smul x := one_smul G x
+  mul_smul q₁ q₂ x := Quotient.inductionOn₂' q₁ q₂ fun g h ↦ mul_smul g h x
+  smul_add q x y := Quotient.inductionOn' q fun g ↦ smul_add g x y
+  smul_zero q := Quotient.inductionOn' q fun g ↦ smul_zero g
+  smul_one q := Quotient.inductionOn' q fun g ↦ smul_one g
+  smul_mul q x y := Quotient.inductionOn' q fun g ↦ smul_mul' g x y
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
noncomputable def mulSemiringActionQuotient [IsGaloisGroup N B C] [N.Normal] :
    MulSemiringAction (G ⧸ N) B :=
  letI := mulSemiringActionOfNormal G B C N
  { smul q x :=
      Quotient.liftOn' q (· • x) fun g₁ g₂ h ↦ by
      apply FaithfulSMul.algebraMap_injective B C
      rw [algebraMap.smul', algebraMap.smul', smul_eq_iff_eq_inv_smul, ← smul_assoc, smul_eq_mul,
        Subgroup.smul_algebraMap C (by rwa [← QuotientGroup.leftRel_apply])]
    one_smul x := one_smul G x
    mul_smul q₁ q₂ x := Quotient.inductionOn₂' q₁ q₂ fun g h ↦ mul_smul g h x
    smul_add q x y := Quotient.inductionOn' q fun g ↦ smul_add g x y
    smul_zero q := Quotient.inductionOn' q fun g ↦ smul_zero g
    smul_one q := Quotient.inductionOn' q fun g ↦ smul_one g
    smul_mul q x y := Quotient.inductionOn' q fun g ↦ smul_mul' g x y }
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 14]
```diff
@@ -475,64 +474,170 @@ end GaloisCorrespondence
...
+
+theorem isScalarTower_mulSemiringActionQuotient [MulSemiringAction G B] [SMulDistribClass G B C]
+    [IsGaloisGroup N B C] [N.Normal] :
+    letI := mulSemiringActionQuotient G B C N
+    IsScalarTower G (G ⧸ N) B :=
+  let := mulSemiringActionQuotient G B C N
+  ⟨fun g q b ↦ Quotient.inductionOn' q fun h ↦ mul_smul g h b⟩
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
theorem mulSemiringActionQuotient_smul_def [MulSemiringAction G B] [SMulDistribClass G B C]
    [IsGaloisGroup N B C] [N.Normal] (g : G) (b : B) :
    letI := mulSemiringActionQuotient G B C N
    (g : G ⧸ N) • b = g • b := by
  let := mulSemiringActionOfNormal G B C N
  refine (Quotient.liftOn'_mk'' (· • b) _ g).trans (FaithfulSMul.algebraMap_injective B C ?_)
  rw [algebraMap.smul', algebraMap.smul']

theorem isScalarTower_mulSemiringActionQuotient [MulSemiringAction G B] [SMulDistribClass G B C]
    [IsGaloisGroup N B C] [N.Normal] :
    letI := mulSemiringActionQuotient G B C N
    IsScalarTower G (G ⧸ N) B :=
  let := mulSemiringActionQuotient G B C N
  ⟨fun g q b ↦ Quotient.inductionOn' q fun h ↦ by
    simp [mul_smul, mulSemiringActionQuotient_smul_def]⟩
```

**Review by tb65536 — COMMENTED** [review]
I was thinking something like this.

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean (hunk 13 above)
Comment (tb65536) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: (The point being that this should be more general/usable, with the only cost being loss of defeq in what I've called `mulSemiringActionQuotient_smul_def`)

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 15]
```diff
@@ -475,64 +474,170 @@ end GaloisCorrespondence
...
 
-instance quotient : IsGaloisGroup (G ⧸ N) K F where
+@[simp]
+theorem coe_quotient_smul [N.Normal] [MulSemiringAction G B] [MulAction (G ⧸ N) B]
+    [IsScalarTower G (G ⧸ N) B] (g : G) (x : B) :
+    (g : G ⧸ N) • x = g • x := by
+  rw [← smul_one_smul (G ⧸ N) g x, ← QuotientGroup.mk_one, MulAction.Quotient.smul_coe, smul_eq_mul,
+    mul_one]
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: This should generalize (at the very least, `[MulSemiringAction G B]` can be generalized to `[SMul G B]`).

Comment (tb65536) [reply Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: (so this should probably be moved to an earlier file as well)

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 16]
```diff
@@ -82,7 +82,21 @@ instance [IsGaloisGroup G A B] : IsGaloisGroup (⊤ : Subgroup G) A B :=
...
 attribute [instance low] IsGaloisGroup.commutes IsGaloisGroup.isInvariant
 
-variable [FaithfulSMul A B] [hA : IsGaloisGroup G A B]
+variable {G} in
+protected theorem Subgroup.smul_algebraMap {H : Subgroup G} {C : Type*} [CommSemiring C]
+    [Algebra C B] [SMulCommClass H C B] {g : G} (hg : g ∈ H) (x : C) :
+    g • algebraMap C B x = algebraMap C B x :=
+  smul_algebraMap (⟨g, hg⟩ : H) x
+
+theorem IsGaloisGroup.smul_mem_of_normal (C : Type*) [CommSemiring C] [Algebra C B] (N : Subgroup G)
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
theorem IsGaloisGroup.smul_mem_of_normal {C : Type*} [CommSemiring C] [Algebra C B] (N : Subgroup G)
```
You can maybe use a `variable {C : Type*} [CommSemiring C]` line.

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 17]
```diff
@@ -296,21 +310,6 @@ theorem subgroup_iff [hGKL : IsGaloisGroup G K L] :
     IsGaloisGroup H F L ↔ FixedPoints.intermediateField H = F :=
   ⟨fun _ ↦ fixedPoints_of_isGaloisGroup G K L H F, fun h ↦ of_fixedPoints_eq G K L H F h⟩
 
-theorem smul_eq_self [IsGaloisGroup H F L] (g : G) (hg : g ∈ H) (x : F) :
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:299]: This may needs a deprecation.

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 18]
```diff
@@ -475,64 +474,174 @@ end GaloisCorrespondence
...
+    [IsGaloisGroup N B C] :
+    IsGaloisGroup (G ⧸ N) A B where
   faithful.eq_of_smul_eq_smul := fun {g₁} {g₂} ↦ Quotient.inductionOn₂' g₁ g₂ fun g₁ g₂ h ↦ by
-    rw [QuotientGroup.eq, ← fixingSubgroup_fixedPoints G K L N, subgroup_iff.mp hF,
-      mem_fixingSubgroup_iff]
-    intro x hx
-    rw [mul_smul, inv_smul_eq_iff]
-    simpa [eq_comm, coe_quotient_smul] using congr_arg Subtype.val <| h ⟨x, hx⟩
+    have h' : ∀ g : G, (∀ x : B, g • x = x) → g ∈ N := by
+      simp only [← fixingSubgroup_range_algebraMap G A B C N, mem_fixingSubgroup_iff,
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]: Can you unsqeueeze?

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 19]
```diff
@@ -475,64 +474,174 @@ end GaloisCorrespondence
...
+    rwa [MulAction.coe_quotient_smul, algebraMap.smul'] at this
+
+end Domain
+
+noncomputable section IntermediateField
+
+variable (N : Subgroup G) [N.Normal] [IsGaloisGroup N F L]
+
+instance : MulSemiringAction (G ⧸ N) F :=
+  let := smulOfNormal G F L N
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
  letI := smulOfNormal G F L N
```
It probably doesn't matter, but why not. Same below.

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 20]
```diff
@@ -475,64 +474,174 @@ end GaloisCorrespondence
...
     letI : Algebra E F := (IntermediateField.inclusion h).toAlgebra
     IsGaloisGroup (H.map (QuotientGroup.mk' N)) E F :=
-  have hFN : IsGaloisGroup (G ⧸ N) K F := inferInstance
   let : Algebra E F := (IntermediateField.inclusion h).toAlgebra
-  { faithful := by have := hFN.faithful; infer_instance
+  let : SMul G F := smulOfNormal G F L N
+  have : SMulDistribClass G F L := smulDistribClass_smulOfNormal G F L N
+  let := mulSemiringActionOfSmulDistribClass F L G
+  have : IsScalarTower E F L := IsScalarTower.of_algebraMap_eq' rfl
+  have := isScalarTower_mulSemiringActionQuotient G F L N
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean:632]: Can you extract this as a standalone lemma?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+
